US07687491B2
(13c) 1-({4-Ethyl-5-[5-(4-phenoxyphenyl)-1,2,4-oxadiazol-3-yl]-2-thienyl}methyl)azetidine-3-carboxylic acid
The title compound (0.15 g) was synthesized in a yield of 86% as a white crystalline solid using by conducting the similar reaction to that mentioned in Example 3 (3e) using methyl 1-({4-ethyl-5-[5-(4-phenoxyphenyl)-1,2,4-oxadiazol-3-yl]-2-thienyl}methyl)azetidine-3-carboxylate (0.180 g, 0.39 mmol) that was obtained in Example 13 (13b) and a 1N aqueous solution of sodium hydroxide (1.2 ml, 1.2 mmol).

reactant | methyl 1-({4-ethyl-5-[5-(4-phenoxyphenyl)-1,2,4-oxadiazol-3-yl]-2-thienyl}methyl)azetidine-3-carboxylate | 0.39 mmol, 0.180 g | C(C)C=1C=C(SC1C1=NOC(=N1)C1=CC=C(C=C1)OC1=CC=CC=C1)CN1CC(C1)C(=O)OC | C26H25N3O4S
reactant | sodium hydroxide | 1.2 mmol, 1.2 ml | [OH-].[Na+]
product | 1-({4-Ethyl-5-[5-(4-phenoxyphenyl)-1,2,4-oxadiazol-3-yl]-2-thienyl}methyl)azetidine-3-carboxylic acid | 0.15 g, yield of 86% | C(C)C=1C=C(SC1C1=NOC(=N1)C1=CC=C(C=C1)OC1=CC=CC=C1)CN1CC(C1)C(=O)O | C25H23N3O4S
